US04863953
D-Methionine (50.3 g, 0.34 mol) was dissolved in water (700 ml) containing sodium carbonate (71.5 g, 0.675 mol). To this solution was added a solution of di-tert-butyl dicarbonate (81.0 g, 0.37 mol) in dioxan (250 ml) and the mixture left stirring for 16 h at room temperature. Water (1.51) was added and the solution was washed twice with diethyl ether. The aqueous phase was acidified to pH 3 by addition of solid citric acid and the product extracted three times with ethyl acetate (500 ml). The combined organic phases were washed successively twice with water, once with saturated brine, then were dried over magnesium sulfate. Evaporation gave t-butoxycarbonyl-D-methionine as an oil (87.6 g, 100%). [α]D +19.0° (c=1%, MeOH).

reactant | D-Methionine | 0.34 mol, 50.3 g | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | sodium carbonate | 0.675 mol, 71.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 0.37 mol, 81.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 700 ml | O | H2O
solvent | dioxan | 250 ml | O1CCOCC1 | C4H8O2
product | t-butoxycarbonyl-D-methionine | 87.6 g, 100% | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
